US05288727
1.33 g (5 mmol) of 4'-chloro-2-(4-chlorophenyl)acetophenone was dissolved in 25 ml of ethanol, and 1.25 g (25 mmol) of hydrazine monohydrate was added thereto. The mixture was refluxed under heating for 2 hours. After completion of the reaction, ethanol was distilled off under reduced pressure, and water was added to the residue. The mixture was extracted with dichloromethane. The extract was dried over anhydrous sodium sulfate. Then, the solvent was distilled off to obtain 1.44 g of [4'-chloro-2-(4-chlorophenyl)acetophenone]hydrazone as a yellow oily substance.

reactant | 4'-chloro-2-(4-chlorophenyl)acetophenone | 5 mmol, 1.33 g | ClC1=CC=C(C=C1)C(CC1=CC=C(C=C1)Cl)=O | C14H10Cl2O
reactant | hydrazine monohydrate | 25 mmol, 1.25 g | O.NN
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | [4'-chloro-2-(4-chlorophenyl)acetophenone]hydrazone | 1.44 g | ClC1=CC=C(C=C1)C(CC1=CC=C(C=C1)Cl)=NN | C14H12Cl2N2
